US07728150B2
7-Chloro-3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indole
Utilizing 1-ethyl-5-fluoro-indan-1-ol and 7-chloroindole, the title compound is prepared as in example 1. 90 mg (60%). NMR (400 MHz, CDCl3): δ 0.85 (t, 3H), 2.15 (m, 1H), 2.22 (m, 1H), 2.34 (m, 1H), 2.59 (m, 1H), 2.98 (m, 2H), 6.82 (t, 1H), 6.87 (m, 2H), 7.00 (m, 2H), 7.11 (d, 1H), 7.16 (d, 1H), 8.12 (s, 1H, NH).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | 7-chloroindole | ClC=1C=CC=C2C=CNC12 | C8H6ClN
product | 7-Chloro-3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indole | ClC=1C=CC=C2C(=CNC12)C1(CCC2=CC(=CC=C12)F)CC | C19H17ClFN
